US08664226B2
Process 3: To the dichloromethane (1 mL) solution of the crude product of 4′-{{1-[5-(3-aminopropoxy)pyrimidin-2-yl]-4-butyl-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl}methyl}biphenyl-2-carbonitrile (45 mg), pyridine (9.7 mg, 0.123 mmol) and acetyl chloride (8.3 mg, 0.106 mmol) were added and stirred at room temperature overnight. The reaction mixture was added water, and extracted with ethyl acetate. The organic layer was combined, washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain N-{3-{2-{4-butyl-5-[(2′-cyanobiphenyl-4-yl)methyl]-2-methyl-6-oxopyrimidin-1 (6H)-yl}pyrimidin-5-yl oxy}propyl}acetamide (35 mg) as a crude product.

reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
reactant | 4′-{{1-[5-(3-aminopropoxy)pyrimidin-2-yl]-4-butyl-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl}methyl}biphenyl-2-carbonitrile | 45 mg | NCCCOC=1C=NC(=NC1)N1C(=NC(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCCC)C | C30H32N6O2
reactant | pyridine | 0.123 mmol, 9.7 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.106 mmol, 8.3 mg | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | N-{3-{2-{4-butyl-5-[(2′-cyanobiphenyl-4-yl)methyl]-2-methyl-6-oxopyrimidin-1 (6H)-yl}pyrimidin-5-yl oxy}propyl}acetamide | 35 mg | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)C1=NC=C(C=N1)OCCCNC(C)=O)C | C32H34N6O3
